US06610846B1
A solution of (4-mercapto-phenyl)-acetic acid (1.00 g, 5.94 mmol) in methanol (10 mL) was treated with a catalytic amount of concentrated sulfuric acid (2 drops). The reaction was heated under reflux for 2 h. At this time, the reaction mixture was concentrated in vacuo. The residue was re-dissolved in chloroform and washed with a saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford (4-mercapto-phenyl)-acetic acid methyl ester (1.04 g, 96%) as a colorless oil: EI-HRMS m/e calcd for C9H10O2S (M+) 182.0402, found 182.0405.

reactant | (4-mercapto-phenyl)-acetic acid | 5.94 mmol, 1.00 g | SC1=CC=C(C=C1)CC(=O)O | C8H8O2S
reactant | methanol | 10 mL | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | (4-mercapto-phenyl)-acetic acid methyl ester | 1.04 g, 96% | COC(CC1=CC=C(C=C1)S)=O | C9H10O2S
